US05589473
To a solution of 75.1 g of 2-formyl-3-hydroxy-5-methoxy-6-methylbenzoic acid allyl ester in 0.6 l of N,N-dimethylformamide were added 81.0 g of dimethyl-(1,1,2-trimethyl-propyl)-chlorosilane and 45.5 g of triethylamine. The mixture was stirred for 4 h at rootn temperature and then evaporated in vacuo. The residue was taken up in 2 l of ethyl acetate, and the mixture was successively washed with 1N hydrochloric acid and with brine, and dried over sodium sulfate. The solvent was evaporated in vacuo and the residue was crystallized from hexane to give 108.8 g of 2-formyl-5-methoxy-6-methyl-3-[dimethyl-(1,1,2-trimethyl-propyl)silanyloxy]-benzoic acid allyl ester as white crystals of m.p. 81°-82° C.

reactant | 2-formyl-3-hydroxy-5-methoxy-6-methylbenzoic acid allyl ester | 75.1 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O)C=O)=O | C13H14O5
reactant | dimethyl-(1,1,2-trimethyl-propyl)-chlorosilane | 81.0 g | C[Si](Cl)(C(C(C)C)(C)C)C | C8H19ClSi
reactant | triethylamine | 45.5 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.6 l | CN(C=O)C | C3H7NO
product | 2-formyl-5-methoxy-6-methyl-3-[dimethyl-(1,1,2-trimethyl-propyl)silanyloxy]-benzoic acid allyl ester | 108.8 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)C=O)=O | C21H32O5Si
